US05763489
A suspension of ethyl (5-methoxy-1,2,3,4-tetrahydro-1-naphthyl)acetate (1.02 g) and lithium aluminum hydride (0.20 g) in tetrahydrofuran (15 ml) was stirred at 0° C. for 2.5 hours. The solution was poured into cold 1N-hydrochloric acid, then the resulting mixture was filtered through the celite, and extracted with ethyl acetate. The extract was washed with brine, dried over sodium sulfate, and evaporated in vacuo to afford 2-(5-methoxy-1,2,3,4-tetrahydro-1-naphthyl)ethanol as a colorless oil (0.85 g).

reactant | ethyl (5-methoxy-1,2,3,4-tetrahydro-1-naphthyl)acetate | 1.02 g | COC1=C2CCCC(C2=CC=C1)CC(=O)OCC | C15H20O3
reactant | lithium aluminum hydride | 0.20 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-(5-methoxy-1,2,3,4-tetrahydro-1-naphthyl)ethanol | 0.85 g | COC1=C2CCCC(C2=CC=C1)CCO | C13H18O2
